US07381253B2
Part A: Stearyl Anthranilate Synthesis
Into a 4 liter beaker equipped with magnetic stirrer, dropping funnel, and thermometer, was charged stearyl alcohol (270.0 grams, 1.0 mol; obtained from Sigma-Aldrich), isatoic anhydride (244.0 grams, 1.5 mol), 1,4-diazabicyclo(2.2.2)octane (DABCO) (56 grams, 0.5 mol), and dimethylformamide (750 milliliters). The mixture was stirred and heated to 120° C. for a period of about 2 hours. The mixture was then cooled to 50° C., and methanol (3 liters) was added. A thick white precipitate formed, which was filtered and then washed with 3×1 liter portions of methanol and oven dried at 60° C. to yield 295.8 grams of a beige solid at 76 percent yield.

reactant | stearyl alcohol | 1.0 mol, 270.0 grams | C(CCCCCCCCCCCCCCCCC)O | C18H38O
reactant | isatoic anhydride | 1.5 mol, 244.0 grams | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1,4-diazabicyclo(2.2.2)octane | 0.5 mol, 56 grams | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethylformamide | 750 milliliters | CN(C=O)C | C3H7NO
solvent | methanol | 3 liters | CO | CH4O
product | Stearyl Anthranilate | 295.8 grams, 76 percent yield | C(C=1C(N)=CC=CC1)(=O)OCCCCCCCCCCCCCCCCCC | C25H43NO2
